* C:\Users\Tomas\Desktop\ITBA\8° Cuatrimestre\Análisis de Señales y Sistemas Digitales\Trabajos Prácticos\TP N°1\TP1\Filtros\filtro montecarlo.asc
XU1 N005 N007 VCC+ VCC- v1 TL082
V1 VCC+ 0 15
V2 0 VCC- 15
R2 N005 N002 {mc{35k, tolr}}
R3 N002 vi {mc{35k, tolr}}
R4 v1 N007 {mc{16k, tolr}}
R5 N007 0 {mc{10k, tolr}}
C1 N005 0 {mc{1n, tolc}}
C2 v1 N002 {mc{1n, tolc}}
XU2 N006 N009 VCC+ VCC- v2 TL082
R1 N006 N003 {mc{44k, tolr}}
R6 N003 vi2 {mc{44k, tolr}}
R7 v2 N009 {mc{11.5k, tolr}}
R8 N009 0 {mc{10k, tolr}}
C3 N006 0 {mc{1n, tolc}}
C4 v2 N003 {mc{1n, tolc}}
XU3 N008 N010 VCC+ VCC- v3 TL082
R9 N008 N004 {mc{62k, tolr}}
R10 N004 vi3 {mc{62k, tolr}}
R11 v3 N010 {mc{5k, tolr}}
R12 N010 0 {mc{10k, tolr}}
C5 N008 0 {mc{1n, tolc}}
C6 v3 N004 {mc{1n, tolc}}
XU4 0 N001 VCC+ VCC- v4 TL082
R14 N001 vi4 {mc{10k, tolr}}
C8 v4 N001 {mc{7.9n, tolc}}
XU5 v1 vi2 VCC+ VCC- vi2 TL082
XU6 v2 vi3 VCC+ VCC- vi3 TL082
XU7 v3 vi4 VCC+ VCC- vi4 TL082
R17 N011 vo1 {mc{3.1k, tolr}}
R18 N015 N011 {mc{23.5k, tolr}}
C9 N015 N011 {mc{10n, tolc}}
R20 N013 N015 {mc{3.1k, tolr}}
XU8 0 N011 VCC+ VCC- N015 TL082
XU9 0 N013 VCC+ VCC- N014 TL082
XU10 0 N017 VCC+ VCC- N012 TL082
C10 N014 N013 {mc{10n, tolc}}
R19 N017 N014 {mc{10k, tolr}}
R21 N012 N017 {mc{10k, tolr}}
R22 N012 N011 {mc{3.1k, tolr}}
XU11 v4 vo1 VCC+ VCC- vo1 TL082
V3 vi 0 SINE(0 5) AC 1
R23 v4 N001 {mc{10k, tolr}}
XU12 0 N016 VCC+ VCC- vo TL082
R13 N016 N012 {mc{10k, tolr}}
R15 vo N016 {mc{1k, tolr}}
.inc "TL082.301"
.ac dec 1000 1m 20k
;step param run 1 100 1
.param tolr = 0.01
.param tolc = 0.1
.backanno
.end
