* C:\Users\Tomas\Desktop\ITBA\8° Cuatrimestre\Análisis de Señales y Sistemas Digitales\Trabajos Prácticos\TP N°1\TP1\filtros\Filtro.asc
XU1 N009 N011 VCC+ VCC- N002 TL082
V1 VCC+ 0 15
V2 0 VCC- 15
R2 N009 N001 35k
R3 N001 vi 35k
R4 N002 N011 26k
R5 N011 0 10k
C1 N009 0 1n
C2 N002 N001 1n
XU2 N010 N015 VCC+ VCC- N004 TL082
R1 N010 N003 44k
R6 N003 N012 44k
R7 N004 N015 21k
R8 N015 0 10k
C3 N010 0 1n
C4 N004 N003 1n
XU3 N014 N017 VCC+ VCC- N006 TL082
R9 N014 N005 62k
R10 N005 N013 62k
R11 N006 N017 15.2k
R12 N017 0 10k
C5 N014 0 1n
C6 N006 N005 1n
XU4 N016 N019 VCC+ VCC- N008 TL082
R13 N016 N007 80k
R14 N007 N018 80k
R15 N008 N019 10k
R16 N019 0 10k
C7 N016 0 1n
C8 N008 N007 1n
XU5 N002 N012 VCC+ VCC- N012 TL082
XU6 N004 N013 VCC+ VCC- N013 TL082
XU7 N006 N018 VCC+ VCC- N018 TL082
R17 N020 vo1 3.1k
R18 N023 N020 23.5k
C9 N023 N020 10n
R20 N021 N023 3.1k
XU8 0 N020 VCC+ VCC- N023 TL082
XU9 0 N021 VCC+ VCC- N022 TL082
XU10 0 N024 VCC+ VCC- vo TL082
C10 N022 N021 10n
R19 N024 N022 10k
R21 vo N024 10k
R22 vo N020 3.1k
XU11 N008 vo1 VCC+ VCC- vo1 TL082
V3 vi 0 SINE(0 5) AC 1
.inc "TL082.301"
.ac dec 1000 1m 20k
.backanno
.end
